US03966720
N-Benzyloxypyridinium p-toluenesulfonate was prepared by mixing pyridine-N-oxide and an equimolar amount of benzyl p-toluenesulfonate and heating the mixture at 85°C for 4 hours. The crude product was recrystallized from a mixture of ethanol and ethyl acetate. By this procedure N-benzyloxypyridinium p-toluenesulfonate having a melting point of 107° to 109°C was obtained.

reactant | pyridine-N-oxide | [N+]1(=CC=CC=C1)[O-] | C5H5NO
reactant | benzyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1=CC=CC=C1)C | C14H14O3S
product | N-benzyloxypyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)O[N+]1=CC=CC=C1 | InChI=1S/C12H12NO.C7H8O3S/c1-3-7-12(8-4-1)11-14-13-9-5-2-6-10-13;1-6-2-4-7(5-3-6)11(8,9)10/h1-10H,11H2;2-5H,1H3,(H,8,9,10)/q+1;/p-1
